US06506494B2
Preparation of Encapsulated DICY/Catechol
A polymeric solution was prepared by dissolving 40 grams of PMMA-co-PMAA in 700 ml of acetone and heating to 45° C. A second solution was prepared by adding 16 grams of DICY and 16 grams of catechol to 340 ml of methanol. The second solution was added to the first and then stirred for 1 hour at room temperature. The solution was processed through a Buchi™ 190 mini-spray dryer with conditions set as described above, to form particles that are a mixture of DICY and catechol encapsulated in the acrylic polymer. The average particle size was between about 5-10 micrometers with an overall size distribution from about 2 to about 25 micrometers. The particles contain an average of 22% by weight DICY and 22% by weight catechol based on the total particle weight.

reactant | PMMA | 40 grams | CC(=C)C(=O)OC | C5H8O2
reactant | DICY | 16 grams | C(#N)N=C(N)N | C2H4N4
reactant | catechol | 16 grams | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | methanol | 340 ml | CO | CH4O
solvent | acetone | 700 ml | CC(=O)C | C3H6O
product | DICY Catechol | C(#N)N=C(N)N.C=1(O)C(O)=CC=CC1 | InChI=1S/C6H6O2.C2H4N4/c7-5-3-1-2-4-6(5)8;3-1-6-2(4)5/h1-4,7-8H;(H4,4,5,6)
